US08076345B2
A) 5-methyl-2-(4-(1-(quinoxalin-6-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile
A reaction mixture of 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile (200 mg, 0.70 mmol) and 1-(quinoxalin-6-yl)ethanamine (150 mg, 0.87 mmol) in acetonitrile (2 mL) and N,N-diisopropylethylamine (734 μL, 4.2 mmol) was subjected to microwave irradiation at 185° C. for 3.5 h. The reaction mixture was concentrated and the residue was purified by preparative HPLC (100×20.2 mm, C18 column; 30-60% acetonitrile-water [10 mM Et2NH]) to afford a light brown solid (45 mg).

reactant | 2-(4-chloro-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)-5-methylbenzonitrile | 0.70 mmol, 200 mg | ClC=1C2=C(N=CN1)CCN(C2)C2=C(C#N)C=C(C=C2)C | C15H13ClN4
reactant | 1-(quinoxalin-6-yl)ethanamine | 0.87 mmol, 150 mg | N1=CC=NC2=CC(=CC=C12)C(C)N | C10H11N3
reactant | N,N-diisopropylethylamine | 4.2 mmol, 734 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 5-methyl-2-(4-(1-(quinoxalin-6-yl)ethylamino)-7,8-dihydropyrido[4,3-d]pyrimidin-6(5H)-yl)benzonitrile | 45 mg | CC=1C=CC(=C(C#N)C1)N1CC2=C(N=CN=C2NC(C)C=2C=C3N=CC=NC3=CC2)CC1 | C25H23N7
